US08278338B2
0.5 g of dimethyl-(5-pyridin-3-yl-2,3-dihydro-benzo[b]thiepin-4-ylmethyl)-amine hydrochloride was dissolved in 2.5 ml of glacial acetic acid; 0.29 ml of 35% hydrogen peroxide solution was added dropwise at room temperature, with stirring, and stirring was continued for 24 hours. The reaction mixture was covered with a layer of ethyl acetate, while cooling with ice, rendered alkaline with 32% sodium hydroxide solution and extracted three times with ethyl acetate; the combined organic phases were dried over magnesium sulfate, filtered and concentrated in vacuo. 0.35 g of crude product was obtained and was purified by means of preparative HPLC (Hypercarb 5 μm 120×4 mm, 0.5 ml/min., acetonitrile/water (v/v=70:30+0.1% diethylamine). After filtration through a MF-Millipore-MCE membrane (mixed cellulose esters; 0.45 μm), 0.102 g of dimethyl-(1-oxo-5-pyridin-3-yl-2,3-dihydro-1H-1λ4-benzo[b]thiepin-4-ylmethyl)-amine was obtained and was dissolved in 3 ml of 2-acetone p.a. and converted into the corresponding hydrochloride with about 0.003 ml of water and about 0.041 ml of chlorotrimethylsilane, while cooling with ice; the hydrochloride was dried in vacuo (about 50 mbar) (yield 0.1 g).

reactant | dimethyl-(5-pyridin-3-yl-2,3-dihydro-benzo[b]thiepin-4-ylmethyl)-amine hydrochloride | 0.5 g | Cl.CN(CC1=C(C2=C(SCC1)C=CC=C2)C=2C=NC=CC2)C
reactant | hydrogen peroxide | 0.29 ml | OO | H2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | dimethyl-(1-oxo-5-pyridin-3-yl-2,3-dihydro-1H-1λ4-benzo[b]thiepin-4-ylmethyl)-amine | 0.102 g | CN(CC1=C(C2=C(S(CC1)=O)C=CC=C2)C=2C=NC=CC2)C | C18H20N2OS
